US08975256B2
8-(5-Fluoro-2-methylphenoxymethyl)-7-[2-methoxy-4-(3-methoxycarbonylbenzoyloxy)phenyl]-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one (Compound No. 15-1)
A mixture of 8-(5-fluoro-2-methylphenoxymethyl)-7-(4-hydroxy-2-methoxyphenyl)-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one (Compound No. 11, 25.3 mg, 0.0562 mmol), monomethyl isophthalate (20.5 mg, 0.114 mmol), N,N-diisopropylethylamine (38.8 μL, 0.223 mmol) and O-(7-azabenzotriazol-1-yl)-N,N,N,N-tetramethyluronium hexafluorophosphate (43.4 mg, 0.114 mmol) was dissolved in anhydrous N,N-dimethylformamide (0.5 mL) and the reaction mixture was stirred at room temperature overnight. The mixture was diluted with ethyl acetate (15 mL). The mixture was washed with water (15 mL) and saturated brine (15 mL) successively, dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled compound (22.0 mg) as a colorless solid. (Yield 64%)

reactant | 8-(5-fluoro-2-methylphenoxymethyl)-7-(4-hydroxy-2-methoxyphenyl)-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one | FC=1C=CC(=C(OCC=2C(=CC=C3NC(C(N(C23)C)=O)(C)C)C2=C(C=C(C=C2)O)OC)C1)C | C26H27FN2O4
reactant | monomethyl isophthalate | 0.114 mmol, 20.5 mg | C(C1=CC(C(=O)[O-])=CC=C1)(=O)OC
reactant | N,N-diisopropylethylamine | 0.223 mmol, 38.8 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | 8-(5-Fluoro-2-methylphenoxymethyl)-7-[2-methoxy-4-(3-methoxycarbonylbenzoyloxy)phenyl]-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one | 22.0 mg, Yield 64% | FC=1C=CC(=C(OCC=2C(=CC=C3NC(C(N(C23)C)=O)(C)C)C2=C(C=C(C=C2)OC(C2=CC(=CC=C2)C(=O)OC)=O)OC)C1)C | C35H33FN2O7
